US08445510B2
4-(4-{3-[(1S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-5-methyl-1H-pyrazol-1-yl)cyclohexanone
A solution of cis-4-(4-{3-[(1S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-5-methyl-1H-pyrazol-1-yl)cyclohexanol (140.0 mg, 0.2899 mmol), Dess-Martin periodinane (184.4 mg, 0.4348 mmol) and DCM (10 mL, 200 mmol) was stirred at rt for 1 h. The material was extracted with DCM and sat. NaHCO3, and the organic layer was loaded onto silica gel for column chromatography, eluting with 2-4% MeOH/DCM. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a tan solid. MS (ES+): m/z=481.18/483.18 (100/50) [MH+]. HPLC: tR=1.49 min (polar—3 min, UPLC-ACQUITY).

reactant | cis-4-(4-{3-[(1S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-5-methyl-1H-pyrazol-1-yl)cyclohexanol | 0.2899 mmol, 140.0 mg | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C=NN(C2C)[C@H]2CC[C@H](CC2)O | C26H28ClFN4O2
reactant | Dess-Martin periodinane | 0.4348 mmol, 184.4 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | DCM | 200 mmol, 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-{3-[(1S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-5-methyl-1H-pyrazol-1-yl)cyclohexanone | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C=NN(C2C)C2CCC(CC2)=O | C26H26ClFN4O2
